US08236823B2
To 2-chloronicotinonitrile (900 mg, 6.50 mmol), 2-fluoro-5-hydroxybenzoic acid (1.0 g, 6.4 mmol) and cesium carbonate (4.2 g, 13 mmol) was added DMSO (7 mL). The mixture was heated to 95° C. for 18 hours in a sealed tube. The mixture was diluted with water and extracted with EtOAc. The aqueous layer was acidified with 6 N HCl (pH˜2) and then extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to yield 5-(3-cyanopyridin-2-yloxy)-2-fluorobenzoic acid. MS m/z 257=[M+H]+. Calc'd for C13H7FN2O3: 258.21.

reactant | 2-chloronicotinonitrile | 6.50 mmol, 900 mg | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 2-fluoro-5-hydroxybenzoic acid | 6.4 mmol, 1.0 g | FC1=C(C(=O)O)C=C(C=C1)O | C7H5FO3
reactant | cesium carbonate | 13 mmol, 4.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 7 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-(3-cyanopyridin-2-yloxy)-2-fluorobenzoic acid | C(#N)C=1C(=NC=CC1)OC=1C=CC(=C(C(=O)O)C1)F | C13H7FN2O3
